US04267345
N (α-phenyl trifluoroethyl) N'benzoylthio Urea
8.2 g ammonium thiocyanate are dissolved in 54 ml water and the resulting solution is cooled to about 0°. The temperature is kept to this temperature during the addition of a solution of 11.5 ml benzoyl chloride in 10.5 ml acetone thereto. The temperature of the reaction mixture is let to revert to about 30° then the mixture is heated to reflux for 10 mn. A solution of α-phenyl trifluoroethylamine in 110 ml acetone is thereafter added portionwise for 1 hour while heating the mixture at reflux. The heating is maintained for a further period of 11/2 hour then let to revert to ambient temperature. The solvent is distilled off. The dry residue is taken up in 250 ml water. The aqueous solution is extracted 3 times with 200 ml ether. The organic phases are united, washed with water until the washings are free of chlorine ions, filtered and dried on sodium sulphate. The solvent is evaporated off, under reduced pressure and 34.1 g of raw product are recovered. The compound is purified by recrystallizing it from hexane. The pure N-(α-phenyl trifluoroethyl) N'-benzoyl thio Urea melts at 55°-60°.

reactant | ammonium thiocyanate | 8.2 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 11.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | α-phenyl trifluoroethylamine | C1(=CC=CC=C1)C(C(F)(F)F)N | C8H8F3N
solvent | water | 54 ml | O | H2O
solvent | acetone | 10.5 ml | CC(=O)C | C3H6O
solvent | acetone | 110 ml | CC(=O)C | C3H6O
product | (α-phenyl trifluoroethyl) N'benzoylthio Urea | C1(=CC=CC=C1)C(C(F)(F)F)NC(=S)NC(C1=CC=CC=C1)=O | C16H13F3N2OS
